US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-3,3-DIMETHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-hydroxy-3,3-dimethylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone, the title compound was obtained as a brown solid (51% yield). m.p.: 186-189° C. 1H NMR (300 MHz, CDCl3) δ 8.20, 8.04, 7.75, 7.22, 7.07, 6.98, 4.06-3.98, 3.91-3.71, 3.47-3.23, 2.45, 0.96. 13C NMR (75 MHz, CDCl3) δ 166.3, 164.1, 160.1, 160.0, 130.1, 127.2, 116.9, 116.6, 115.0, 114.7, 112.4, 79.4, 46.4, 44.5, 44.3, 41.9, 41.3, 34.4, 25.7. MS (ES+) m/z 498 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-hydroxy-3,3-dimethylbutyl)amide | OC(CNC(=O)C=1N=NC(=CC1)Cl)C(C)(C)C | C11H16ClN3O2
reactant | piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC(=C1)F)C(F)(F)F | C12H12F4N2O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-3,3-DIMETHYLBUTYL)AMIDE | OC(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C(C)(C)C | C23H27F4N5O3
